US08357703B2
e) N-Isopropyl-6-(5-methyl-3-propyl-isoxazol-4-ylmethoxy)-nicotinamide
A mixture of 6-(5-methyl-3-propyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (290 mg, 1.0 mmol), isopropylamine (71 mg, 1.2 mmol) and TBD (42 mg, 0.30 mmol) was stirred for 15 h at ambient temperature under argon. The reaction mixture was concentrated onto silica then purified by chromatography (silica, 0 to 60% ethyl acetate in heptane) to give the title compound (95 mg, 30%) as a white solid after trituration with diisopropyl ether. MS: m/e=318.1 [M+H]+.

reactant | 6-(5-methyl-3-propyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 1.0 mmol, 290 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCC)=O | C15H18N2O4
reactant | isopropylamine | 1.2 mmol, 71 mg | C(C)(C)N | C3H9N
product | N-Isopropyl-6-(5-methyl-3-propyl-isoxazol-4-ylmethoxy)-nicotinamide | 95 mg, 30% | C(C)(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCC)=O | C17H23N3O3
